US06417200B1
E) N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine
To a mixture of N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine (1.57 g, 3.05 mmol) THF (30 mL) at 0° C. was added a THF solution of TBAF (3.1 mL, 3.1 mmol). After 1 h, the reaction was quenched with water (35 mL) and extracted with ether (2×200 mL). The combined organic layers was MgSO4 dried, filtered, and concentrated. The residue was chromatographed (1:1 EtOAc/hexanes) to give the title compound as a solid (1.10 g, 91%); IR(KBr): 3277, 1629, 1600, 1535, 1478, 1299 cm−1; NMR(300 MHz, d6-DMSO): δ10.02 (s, 1H), 9.70 (s, 1H), 9.56 (s, 1H), 8.31 (s, 1H), 8.18 (d, J=7.5, 1H), 8.01 (d, J=7.2, 1H), 7.79 (d, J=8.1, 2H), 7.70 (m, 1H), 7.34-7.21 (m, 4H), 6.63 (d, J=9.0, 1H), 2.90 (m, 1H), 1.17 (s, 3H), 1.15 (s, 3H); MS(FD): 399.1.

reactant | N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-(dimethyl-t-butylsiloxy)-1,2-benzenediamine | 3.05 mmol, 30 mL, 1.57 g | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O[Si](C(C)(C)C)(C)C)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C30H35N3O3Si
reactant | TBAF | 3.1 mmol, 3.1 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | N1-(3-cyanobenzoyl)-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine | 1.10 g, 91% | C(#N)C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1 | C24H21N3O3
